US08710000B2
Step 2: 3-[(2-Benzyloxycarbonylethyl)tert-butoxycarbonylamino]propionic acid
3-(2-Benzyloxycarbonylethylamino) propionic acid (2 g, 7.2 mmol) was dissolved in DCM (20 mL) and di-tert-butyldicarbonate (3.5 g, 15.8 mmol) and TEA (2.59 mL, 18.6 mmol) were added. After 8 days, DCM (50 mL) was added and the solution was washed with water (75 mL) and 1 N HCl (30 ml). The aqueos washing were extracted with DCM (25 mL). The organic phases were pooled, dried over MgSO4 and concentrated under vacuum. The compound was purified by flash chromatography (AcOEt/heptane) to yield 0.4 g.

reactant | 3-(2-Benzyloxycarbonylethylamino) propionic acid | 7.2 mmol, 2 g | C(C1=CC=CC=C1)OC(=O)CCNCCC(=O)O | C13H17NO4
reactant | di-tert-butyldicarbonate | 15.8 mmol, 3.5 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-[(2-Benzyloxycarbonylethyl)tert-butoxycarbonylamino]propionic acid | C(C1=CC=CC=C1)OC(=O)CCN(CCC(=O)O)C(=O)OC(C)(C)C | C18H25NO6
